US04234736
9.75 g (50 mmol) of 5-amino-2-chlorobenzotrifluoride and 7.15 g (50 mmol) of 2-isocyanato-2-methylpropionic acid methyl ester were admixed and melted at 80° C. The melt was maintained at 80° C. for 30 minutes. The resulting product which was crystallized during the process, was recrystallized from isopropanol/methylene chloride and dried at 50° C. for 20 hours, under greatly reduced pressure, to yield N-[(3-Trifluoromethyl-4-chloro-phenyl)-carbamoyl]-2-methylalanine methyl ester, m.p. 141°-142° C.

reactant | 5-amino-2-chlorobenzotrifluoride | 50 mmol, 9.75 g | NC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H5ClF3N
reactant | 2-isocyanato-2-methylpropionic acid methyl ester | 50 mmol, 7.15 g | COC(C(C)(C)N=C=O)=O | C6H9NO3
product | N-[(3-Trifluoromethyl-4-chloro-phenyl)-carbamoyl]-2-methylalanine methyl ester | COC(C(NC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O)(C)C)=O | C13H14ClF3N2O3
